US06096780
A mixture of methyl 2-bromo-6,7-dihydro-5H-benzocyclohepten-8-carboxylate (1.0 g) in methanol (25 ml), THF (25 ml) and 1N NaOH (18 ml) was refluxed for 1 hour. The solvent was concentrated, acidified using 1N HCl, and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over MgSO4. The solvent was evaporated in vacuo to give 2-bromo-6,7-dihydro-5H-benzocyclohepten-8-carboxylic acid (0.95 g) as colorless prisms.

reactant | methyl 2-bromo-6,7-dihydro-5H-benzocyclohepten-8-carboxylate | 1.0 g | BrC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C13H13BrO2
solvent | methanol | 25 ml | CO | CH4O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | NaOH | 1N, 18 ml | [OH-].[Na+]
product | 2-bromo-6,7-dihydro-5H-benzocyclohepten-8-carboxylic acid | 0.95 g | BrC=1C=CC2=C(C=C(CCC2)C(=O)O)C1 | C12H11BrO2
